US08859774B2
2-Bromothiazole (187 mg, 1.139 mmol) in dry ether (2 mL) was added to butyllithium (1.6M in hexanes) (729 μl, 1.167 mmol) in dry ether (4 mL) at −78° C. The reaction mixture was stirred at −78° C. for 45 minutes. A solution of (R)-methyl 1-(4-fluorophenyl)-6-((3-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate (200 mg, 0.373 mmol) in dry ether (4 mL) was added dropwise and the reaction mixture was stirred for 30 minutes at −78° C. Water (20 mL) was added and the reaction mixture was stirred at room temperature for 10 minutes. The aqueous layer was extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with brine (30 mL), dried (magnesium sulfate), and solvent removed to give a yellow oil. The crude product was purified first by chromatography on silica gel (gradient: 0 to 40% isohexane in ethyl acetate) followed by preparative HPLC (Waters, Acidic (0.1% Formic acid), Waters X-Select Prep-C18, 5 μm, 19×50 mm column, 40-65% acetonitrile in water) to afford (R)-(1-(4-fluorophenyl)-6-((3-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone (127 mg) as a pale yellow solid. LCMS (Method F, ES-API): RT 2.73 min, m+H=589.0; 1H NMR (400 MHz, CDCl3): δ 8.04 (1H, d, J=3.1 Hz), 7.97 (1H, s), 7.90 (1H, d, J=7.9 Hz), 7.81 (1H, d, J=7.9 Hz), 7.70-7.59 (2H, m), 7.46-7.39 (2H, m), 7.30 (1H, s), 7.13-7.19 (2H, m), 6.53 (1H, d, J=2.2 Hz), 5.54 (1H, dd, J=12.4, 2.0 Hz), 4.21 (1H, d, J=16.8 Hz), 3.93-3.89 (1H, m), 2.95-2.84 (2H, m), 2.80 (1H, d, J=12.5 Hz), 2.61-2.52 (2H, m).

reactant | 2-Bromothiazole | 1.139 mmol, 187 mg | BrC=1SC=CN1 | C3H2BrNS
reactant | butyllithium | 1.167 mmol, 1.6M, 729 μl | C(CCC)[Li]
reactant | (R)-methyl 1-(4-fluorophenyl)-6-((3-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate | 0.373 mmol, 200 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)S(=O)(=O)C2=CC(=CC=C2)C(F)(F)F | C25H21F4N3O4S
reactant | Water | 20 mL | O | H2O
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | ether | 4 mL | CCOCC | C4H10O
solvent | ether | 4 mL | CCOCC | C4H10O
product | (R)-(1-(4-fluorophenyl)-6-((3-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone | 127 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2SC=CN2)S(=O)(=O)C2=CC(=CC=C2)C(F)(F)F | C27H20F4N4O3S2
